US06271225B1
Ethyl 2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate (4.9 g) was dissolved in ethyl acetate (200 ml) and 10% palladium-carbon (0.5 g) was added. The mixture was stirred with hydrogen (60 kg/cm2) at 60° C. for 5 hr. The reaction mixture was cooled and the catalyst was filtered off. The filtrate was evaporated under reduced pressure to give ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate (3.5 g).

reactant | Ethyl 2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate | 4.9 g | [N+](=O)([O-])C1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C17H14N2O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate | 3.5 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C17H16N2O2S
